US07691858B2
Synthesis of 3-Aminopyrazine-2-carboxamide (Intermediate 1)
A solution of 3-amino-pyrazine-2-carboxylic acid methyl ester (5.0 g, 33 mmol) in concentrated ammonium hydroxide solution (30 mL) was heated at 60° C. for 3 h. The mixture was cooled to RT and the resulting solid filtered. After thoroughly washed with water followed by ether, the title compound was obtained as a brown solid (3.7 g, 82%).

reactant | 3-amino-pyrazine-2-carboxylic acid methyl ester | 33 mmol, 5.0 g | COC(=O)C1=NC=CN=C1N | C6H7N3O2
reactant | ammonium hydroxide | 30 mL | [OH-].[NH4+]
product | 3-Aminopyrazine-2-carboxamide | NC=1C(=NC=CN1)C(=O)N | C5H6N4O
